US05516788
(v) cis-4b,5,9b,10-tetrahydro-4b,6,7,9,9b-pentamethyl-8-methoxyindeno[1,2-b]indole
To a cold (-80° C.) solution of 1.1 g (0.0038 mol) of 9b,10-dihydro-6,7,9,9b-tetramethyl-8-methoxyindeno[1,2-b]indole in 20 ml of dry THF was added 4 ml of 1.6M methyl lithium in ether under argon. The mixture was stirred at -78° C. for 1 hour and then at -20° C. for 1 hour. After attaining 0° C. aqueous NH4Cl and ether was added. The phases were separated, and the organic phase was washed once with water, dried (MgSO4) and evaporated. The resulting crude product was purified by chromatography on silica using ethyl acetate/isooctane (2/10) as eluant. This gave 0.3 g (25%) of the expected product. 1H NMR (CDCl3): 1.41 (3H,s), 1.43 (3H,s), 1.96 (3H,s), 2.07 (3H,s), 2.35 (3H,s), 3.0 (1H,d), 3.55 (3H,s), 3.65 (1H,d), 7.1 (3H,m), 7.25 (1H,m).

reactant | 9b,10-dihydro-6,7,9,9b-tetramethyl-8-methoxyindeno[1,2-b]indole | 0.0038 mol, 1.1 g | CC1=C(C(=C(C=2C3(C(=NC12)C1=CC=CC=C1C3)C)C)OC)C | C20H21NO
reactant | methyl lithium | 1.6M, 4 ml | C[Li]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | cis-4b,5,9b,10-tetrahydro-4b,6,7,9,9b-pentamethyl-8-methoxyindeno[1,2-b]indole | C[C@]12NC=3C(=C(C(=C(C3[C@]1(CC1=CC=CC=C12)C)C)OC)C)C | C21H25NO
